Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C@@:2]([C:3]([C:4][O:5][H:12])([H:10])[H:11])([C:7](=[C:6]([H:13])[H:14])[H:15])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],9.013829896642203
[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7]>>[C:5](=[O:6])([H:13])[H:14].[O:1](/[C:2](=[C:3](\[C:4]([H:9])([H:11])[H:12])[H:10])[H:8])[H:7],95.340339197751
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])[H:12])([H:9])[H:10].[H:8][H:11],112.746329758118
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])/[C:4](=[C:6](\[O:7][O:5][H:12])[H:13])[H:11])([H:8])([H:9])[H:10],90.44047833959
[C:1]([C:2]([C:3]#[C:4][C:6]#[C:7][H:11])=[O:5])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10],78.74372313122917
[O:1]=[C:2](/[C:6](=[C:5]1\[N:3]([H:8])[C:4]1([H:9])[H:10])[H:11])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],59.07705578302217
[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[O:4]([C:5]#[C:6][H:14])[H:13]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],52.10935157753299
[N:1](=[C:2]1/[C@:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[O:6]1)\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],29.968744390485092
[C+:1]#[C:2][C:3](=[C:4]([C:5](=[C:6]([O-:7])[H:11])[H:10])[H:9])[H:8]>>[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8],29.78354090154282
[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]=[C:4]([C:5]#[N:6])[H:8])[H:9])[H:7],64.7795634888451
[O:1]([C:2]([C:3]/[C:4](=[C:5](/[C:6](=[O:7])[H:13])[H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],20.034049358434693
[C:1]([C:2]#[C:3][C:4](=[C:5]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[O:6]([H:10])[H:14]>>[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],48.968301397035155
[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]=[C:5]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:6]([H:10])([H:14])([H:15])[H:16],85.0109933043623
[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8]>>[O:1]([C:7](=[C:6]=[C:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])[H:9])[H:13])[H:8],58.8104671017694
[C:1]([C:2]([N:6]=[C:5]=[C:3]([O:4][H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],47.57909837143161
[C:1]([C@:5]1([H:13])[C:4]([H:11])([H:12])[C@:3]2([H:10])[C:2]([H:7])([H:9])[N:6]21)[H:8]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[N:6]23,14.187400722861213
[O:1]=[C:2]([N+:6]#[C:5][C:4]#[C-:3])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7],39.5356279679603
[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1>>[N:1]#[C:2][C:3]1=[C:4]([H:8])[N:7]1/[N:6]=[N:5]/[H:9],100.82837042518801
[N:1](=[c:2]1/[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[n:6][o:7]1)\[H:8]>>[N:1]1([H:8])[C@@:2]23[C@:3]1([H:9])[C@:4]2([H:10])[C:5]([H:11])=[N:6][O:7]3,83.39027653398401
[C-:6]#[O+:7].[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([H:16])([H:17])([H:18])[H:19]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],59.141627670804404
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:3]#[O+:4].[C:1]([O:2][H:14])([H:8])([H:9])[H:10].[C:5](=[C:6]([O:7][H:15])[H:13])([H:11])[H:12],84.1071086393073
[C:4](=[C:5]=[O:6])([H:12])[H:13].[O:1]([C:2]([C:3]([H:10])([H:11])[H:14])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],65.00140635761026
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[N:2][C:3](=[N+:4]([H:11])[H:12])[C@:5]([O-:6])([N:7]([H:13])[H:14])[H:9])([H:8])[H:10],64.26116161203579
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:7](=[C:6])[H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],14.929741815642416
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[C:2](=[O:3])=[C:4]([C:5]#[N:6])[H:11],77.7257310891755
[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[C:3]([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],17.434921626916505
